US07645789B2
(Z)-1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-((hydroxyimino)-methyl)-1H-indol-5-yl)cyclopropanecarboxamide (39 mg, 0.090 mmol) was dissolved in acetic anhydride (1 mL) and heated at reflux for 3 h. The mixture was cooled in an ice bath and the precipitate was collected and washed with water. The solid was further dried under high vacuum to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-cyano-1H-indol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 401.5, found 402.5 (M+1)+; retention time 3.70 minutes. 1H NMR (400 MHz, DMSO-d6) δ 11.72 (s, 1H), 8.79 (s, 1H), 7.79 (s, 1H), 7.32 (m, 2H), 7.03-7.02 (m, 1H), 6.95-6.89 (m, 2H), 6.03 (s, 2H), 1.47 (s, 9H), 1.43-1.41 (m, 2H), 1.06-1.04 (m, 2H).

reactant | (Z)-1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-((hydroxyimino)-methyl)-1H-indol-5-yl)cyclopropanecarboxamide | 0.090 mmol, 39 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=C(NC1=CC2)C(C)(C)C)\C=N/O | C24H25N3O4
solvent | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-cyano-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=C(NC1=CC2)C(C)(C)C)C#N | C24H23N3O3
